US07557103B2
B. 1-(3-Bromo-2-methyl-benzo[b]thiophen-7-yl)-ethanone
A solution of 3-bromo-2-methyl-benzo[b]thiophene-7-carboxylic acid methoxy-methyl-amide (2.02 g, 6.43 mmol) in THF (65 mL) is cooled to 0° C., treated with CH3MgBr (3.0 M, 2.4 mL, 7.1 mmol). The reaction is stirred at 0° C. for 10 min, then at rt for 10 min. It is cooled to 0° C., quenched with sat. NH4C (10 mL); diluted with H2O (20 mL); treated with 0.1 M HCl (20 mL); extracted with EtOAc (2×40 mL). The combined organic layers are dried with Na2SO4, filtered and concentrated. Purification of the crude material by chromatography gives the title compound (1.39 g, 5.18 mmol, 81%). 1H NMR (CDCl3): δ. 2.58 (s, 3H), 2.75 (s, 3H), 7.53 (t, J=7.9 Hz, 1H), 7.96 (d, J=7.9 Hz, 1H), 7.99 (d, J=7.5 Hz, 1H) ppm. ES-MS (m/z): calcd for C11H9BrOS (M+1)+: 270.2. found: 270.0.

reactant | 3-bromo-2-methyl-benzo[b]thiophene-7-carboxylic acid methoxy-methyl-amide | 6.43 mmol, 2.02 g | CON(C(=O)C1=CC=CC2=C1SC(=C2Br)C)C | C12H12BrNO2S
reactant | CH3MgBr | 7.1 mmol, 3.0 M, 2.4 mL | C[Mg+].[Br-]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-2-methyl-benzo[b]thiophen-7-yl)-ethanone | 5.18 mmol, 1.39 g, 81% | BrC=1C2=C(SC1C)C(=CC=C2)C(C)=O | C11H9BrOS
